US09421205B2
(a) tert-Butyl 3-(4-((4-((3-(2-methoxy-2-oxoethyl)pyridin-2-yl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I147)
A solution of methyl 2-(2-ethynylpyridin-3-yl)acetate (I120) (0.100 g, 0.571 mmol) in THF (1 mL) and triethylamine (0.199 mL, 1.43 mmol) was added to a mixture of tert-butyl 3-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I24) (0.217 g, 0.476 mmol), Pd(PPh3)2Cl2 (0.033 g, 0.048 mmol), Cu(I)I (0.014 g, 0.071 mmol) and triphenylphosphine (0.019 g, 0.071 mmol) in dimethylformamide (3 mL). The resulting mixture was heated under microwave irradiation at 120° C. for 20 minutes then cooled, degassed for 10 minutes and heated under microwave irradiation at 120° C. for a further 20 minutes. The cooled mixture was diluted with ethyl acetate and the resulting solution passed through a plug of Celite, washing with ethyl acetate (250 mL). The volatiles were removed to give a brown solid which was chromatographed (Biotage Isolera: 25 g silica cartridge, 0-40% EtOAc in petroleum benzine 40-60° C.) to give the title compound (I147) (0.061 g, 22%); 1H NMR (400 MHz, CDCl3) δ 8.63 (s, 1H), 8.62 (d, J=1.2 Hz, 1H), 7.72 (dd, J=7.9, 1.3 Hz, 1H), 7.57 (d, J=8.4 Hz, 2H), 7.54 (s, 1H), 7.35 (dd, J=7.9, 4.7 Hz, 1H), 7.23 (d, J=8.5 Hz, 1H), 4.30-4.06 (m) 3.95 (s, 2H), 3.71 (s, 3H), 2.84-2.58 (m, 3H), 2.06-1.98 (m), 1.70-1.66 (m, 2H), 1.69-1.51 (m, 2H), 1.47 (s, 9H).

reactant | methyl 2-(2-ethynylpyridin-3-yl)acetate | 0.571 mmol, 0.100 g | C(#C)C1=NC=CC=C1CC(=O)OC | C10H9NO2
reactant | triethylamine | 1.43 mmol, 0.199 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 3-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.476 mmol, 0.217 g | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CN(CCC1)C(=O)OC(C)(C)C | C21H24ClF3N4O2
reactant | triphenylphosphine | 0.071 mmol, 0.019 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.048 mmol, 0.033 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-Butyl 3-(4-((4-((3-(2-methoxy-2-oxoethyl)pyridin-2-yl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | COC(CC=1C(=NC=CC1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CN(CCC1)C(=O)OC(C)(C)C)=O | C31H32F3N5O4
